US07700655B2
(1) 2-Acetoxy-5-chlorobenzoic acid
Concentrated sulfuric acid (0.08 mL) was added slowly to a mixture of 5-chlorosalicylic acid (13.35 g, 77 mmol) and acetic anhydride (20 mL). After the reaction mixture was solidified, it was poured into ice water and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over anhydrous sodium sulfate. The residue obtained by evaporation of the solvent under reduced pressure was washed with n-hexane under suspension to give the title compound (15.44 g, 93.0%) as a white crystal.

reactant | sulfuric acid | 0.08 mL | S(O)(O)(=O)=O | H2O4S
reactant | 5-chlorosalicylic acid | 77 mmol, 13.35 g | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetoxy-5-chlorobenzoic acid | 15.44 g, 93.0% | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)Cl | C9H7ClO4
